US04271163
5.0 g (24.8 millimoles) of 2-(p-aminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one and 30 ml of trifluoroacetic anhydride are refluxed for 1 hour. The product is filtered off at 10° C., washed first with toluene and then with water, and recrystallized from a dimethylformamide/water mixture. 5.1 g (69% of theory) of 2-(p-trifluoroacetylaminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one are isolated as colorless crystals, of melting point 242°-243° C.

reactant | 2-(p-aminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one | 24.8 millimoles, 5.0 g | NC1=CC=C(C=C1)C=1C2CC2C(NN1)=O | C11H11N3O
reactant | trifluoroacetic anhydride | 30 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2-(p-trifluoroacetylaminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one | 5.1 g, 69% | FC(C(=O)NC1=CC=C(C=C1)C=1C2CC2C(NN1)=O)(F)F | C13H10F3N3O2
